US06140351
To a solution of N-(4-chlorophenyl)-2-amino-3-methylbenzamide (0.40 g, 1.5 mmol) in chloroform (3 mL) at 0° C. was added SO2Cl2 (0.31 g, 2.3 mmol). The mixture was warmed to ambient temperature and stirred for 1 hour. Concentration of all volatiles in vacuo afforded N-(4-chlorophenyl)-2-amino-3-methyl-5-chlorobenzamide as a yellow solid; NMR (DMSO-d6) 10.2 (s, 1), 7.8 (d, 2), 7.6 (s, 1), 7.4 (d, 2), 7.2 (s, 1), 6.2 (br, 2), 2.1 (s, 3) ppm.

reactant | N-(4-chlorophenyl)-2-amino-3-methylbenzamide | 1.5 mmol, 0.40 g | ClC1=CC=C(C=C1)NC(C1=C(C(=CC=C1)C)N)=O | C14H13ClN2O
reactant | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(4-chlorophenyl)-2-amino-3-methyl-5-chlorobenzamide | ClC1=CC=C(C=C1)NC(C1=C(C(=CC(=C1)Cl)C)N)=O | C14H12Cl2N2O
